US07855297B2
By the reaction and treatment in the same manner as in Example 1 using 6-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (1.1 g) and [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine (1.05 g) as starting materials, 6-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.23 g) was obtained. melting point: 107-109° C.

reactant | 6-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 1.1 g | C(C1=CC=CC=C1)OC=1C=C2CCCC(C2=CC1)C(=O)O | C18H18O3
reactant | [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine | 1.05 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C | C18H24N2
product | 6-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.23 g | C(C1=CC=CC=C1)OC=1C=C2CCCC(C2=CC1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC1=CC=C(C=C1)N(C)C | C36H40N2O2
